US07705027B2
5-(2,4-bis-benzyloxy-5-phenethylphenyl)-4-bromo-isoxazole-3-carboxylic acid ethylamide
N-Bromosuccinimide (207 mg, 1.16 mmol) was added to a suspension of 5-(2,4-Bis-benzyloxy-5-phenethylphenyl)-isoxazole-3-carboxylic acid ethylamide (564 mg, 1.06 mmol) in acetonitrile (20 mL). Ceric ammonium nitrate (290 mg, 0.53 mmol) was added and the reaction mixture was heated to reflux (affording homogeneous orange solution) and stirred for 30 minutes. The reaction mixture was allowed to cool to ambient temperature and acetonitrile was removed in vacuo. The residue was partitioned between ethyl acetate (50 mL) and water (50 mL) and the phases were separated. The organic phase was washed with saturated aqueous sodium chloride solution (50 mL) and dried over sodium sulphate. The mixture was filtered and the filtrate solvents were removed in vacuo to afford a yellow oil which was purified by flash chromatography on silica gel (20 g, IST) eluting with 10-30% ethyl acetate in hexane. This affords 5-(2,4-Bis-benzyloxy-5-phenethylphenyl)-4-bromo-isoxazole-3-carboxylic acid ethylamide as yellow oil (326 mg, 53%). LCMS:

reactant | N-Bromosuccinimide | 1.16 mmol, 207 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-(2,4-Bis-benzyloxy-5-phenethylphenyl)-isoxazole-3-carboxylic acid ethylamide | 1.06 mmol, 564 mg | C(C)NC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)CCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H32N2O4
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 5-(2,4-bis-benzyloxy-5-phenethylphenyl)-4-bromo-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1Br)C1=C(C=C(C(=C1)CCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H31BrN2O4
